US06469188B1
2-adamantylcyclopentadiene.
A 500 mL argon-purged round bottom flask was charged with LiAlH4 (8.20 g, 216 mmol) and 100 mL tetrahydrofuran. Adamantylfulvene (30.00 g, 151.3 mmol) was added via solid addition funnel, followed by another 100 mL tetrahydrofuran over 2 minutes at 0° C. After stirring for 22 hours at room temperature, the reaction was cooled to 0° C. and 100 mL water were added dropwise over 60 minutes. Then, 100 mL concentrated aqueous HCl in 300 mL water and 50 mL diethyl ether were added. The organic layer was isolated and the aqueous layer extracted with diethyl ether (3×50 mL). The combined organic layers were dried over MgSO4, filtered, and rotavapped to give 30.30 g of product in quantitative yield. MS (GC-MS) m/z 200.3 (M+).

reactant | LiAlH4 | 216 mmol, 8.20 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | Adamantylfulvene | 151.3 mmol, 30.00 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=CC2=C | C16H20
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | HCl | 100 mL | Cl | ClH
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | water | 300 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 2-adamantylcyclopentadiene | 30.30 g, quantitative yield | C12C(C3CC(CC(C1)C3)C2)C2=CC=CC2 | C15H20
